US08912169B2
Step 17: Synthesis of 2-(trans-4-(2,2,12,12-tetramethyl-4,10-dioxo-3,11-dioxa-5,9-diazatridecan-6-yl)cyclohexyl)ethyl acetate
To a cooled (0° C.) solution of 2-(trans-4-(3-amino-1-(tert-butoxycarbonylamino)propyl)cyclohexyl)ethyl acetate (1.95 mmol) in DCM (15 mL) was added di-tert-butyl dicarbonate (0.53 g, 2.34 mmol) and TEA (1.09 mL, 7.8 mmol). The mixture was slowly warmed to rt and stirred at rt overnight. After being quenched by aqueous NH4Cl solution, the reaction was extracted with DCM, washed by 0.5N aqueous HCl solution, brine, and dried over Na2SO4. Filtration and evaporation to dryness afforded the crude product. LC/MS: 465.1 (MNa)+.

reactant | 2-(trans-4-(3-amino-1-(tert-butoxycarbonylamino)propyl)cyclohexyl)ethyl acetate | 1.95 mmol | C(C)(=O)OCC[C@@H]1CC[C@H](CC1)C(CCN)NC(=O)OC(C)(C)C | C18H34N2O4
reactant | di-tert-butyl dicarbonate | 2.34 mmol, 0.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(trans-4-(2,2,12,12-tetramethyl-4,10-dioxo-3,11-dioxa-5,9-diazatridecan-6-yl)cyclohexyl)ethyl acetate | C(C)(=O)OCC[C@@H]1CC[C@H](CC1)C(NC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C23H42N2O6
